US04665174
2-Allyl-3-hydroxy-3-methyl-4-cyclopentenone (15.2 g) was dropwise added to a 40% aqueous solution of monomethylamine (60 g) in the same flask as used in Example 1 at a temperature of 10° to 20° C. for 1 hour. At the same temperature, the reaction mixture was kept for 1 hour. After completion of the reaction, monomethylamine and water were evaporated off under reduced pressure. The residue was extracted with dichloromethane, and the solvent was evaporated off from the organic layer to obtain 2-allyl-3-methyl-4-methylamino-2-cyclopentenone (15.9 g). Yield, 96%. nD23 1.5090.

reactant | 2-Allyl-3-hydroxy-3-methyl-4-cyclopentenone | 15.2 g | C(C=C)C1C(C=CC1(C)O)=O | C9H12O2
reactant | monomethylamine | 60 g | CN | CH5N
solvent | water | O | H2O
product | 2-allyl-3-methyl-4-methylamino-2-cyclopentenone | 15.9 g | C(C=C)C=1C(CC(C1C)NC)=O | C10H15NO
